US07989620B2
b) (5S)-5-{[(4-Ethynyl-3,6-dihydropyridin-1(2H) -yl)sulfonyl]methyl}-5-methylimidazolidine-2,4-dione
(5S)-5-Methyl-5-({[4-[(trimethylsilyl)ethynyl]-3,6-dihydropyridin-1(2H) -yl]sulfonyl}methyl)imidazolidine-2,4-dione (2.27 g, 6.0 mmol) and potassium fluoride (1.07 g, 18.4 mmol) were stirred overnight at room temperature in methanol (50 mL). The solvent was evaporated off, the residue dissolved in EtOAc, washed with water followed by brine, dried (sodium sulphate) and evaporated. The residue was purified by column chromatography eluting with iso-hexane/EtOAc 1:1 to give a solid product (1.81 g).

reactant | (5S)-5-Methyl-5-({[4-[(trimethylsilyl)ethynyl]-3,6-dihydropyridin-1(2H) -yl]sulfonyl}methyl)imidazolidine-2,4-dione | 6.0 mmol, 2.27 g | C[C@]1(C(NC(N1)=O)=O)CS(=O)(=O)N1CCC(=CC1)C#C[Si](C)(C)C | C15H23N3O4SSi
reactant | potassium fluoride | 18.4 mmol, 1.07 g | [F-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | (5S)-5-{[(4-Ethynyl-3,6-dihydropyridin-1(2H) -yl)sulfonyl]methyl}-5-methylimidazolidine-2,4-dione | 1.81 g | C(#C)C=1CCN(CC1)S(=O)(=O)C[C@@]1(C(NC(N1)=O)=O)C | C12H15N3O4S
